US09238640B2
To a mixture of 4-(bromoethyl)benzaldehyde (0.840 g, 4.2 mmol) and K2CO3 (1.75 g, 12.6 mmol) in DMF (15 mL) was added N-isopropyl-N-(piperidin-4-yl)acetamide (0.92 g, 4.2 mmol) and the reaction was stirred at room temperature 5 hours, then concentrated in vacuo. The resulting mixture was diluted with H2O and extracted with EtOAc. The organics were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 1% to 10% MeOH/CH2Cl2, afforded N-(1-(4-formylbenzyl)piperidin-4-yl)-N-isopropylacetamide (0.770 g, 61%).

reactant | 4-(bromoethyl)benzaldehyde | 4.2 mmol, 0.840 g | BrCCC1=CC=C(C=O)C=C1 | C9H9BrO
reactant | K2CO3 | 12.6 mmol, 1.75 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-isopropyl-N-(piperidin-4-yl)acetamide | 4.2 mmol, 0.92 g | C(C)(C)N(C(C)=O)C1CCNCC1 | C10H20N2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-(1-(4-formylbenzyl)piperidin-4-yl)-N-isopropylacetamide | 0.770 g, 61% | C(=O)C1=CC=C(CN2CCC(CC2)N(C(C)=O)C(C)C)C=C1 | C18H26N2O2
